US07067506B2
Step 1: 3-Methoxy-4-nitro-benzyl bromide.
To a 250 mL round bottomed flask containing 10 g (54.6 mmol) of 4-nitro-3-methoxybenzyl alcohol in 30 mL THF was added, 36 g (109 mmol, 2 eq ) of carbon tetrabromide followed by 15.9 g (60 mmol, 1.1 eq.) triphenylphosphine at 0° C. The mixture was stirred at 0° C. for 3 hours. Upon removal of the solvent, the residue was purified by flash chromatography, eluting with 10:90 EtOAc-Hexane, to give 11 g (82%) of the product as a yellow solid. 1H NMR (400 MHz, CDCl3): δ7.86 (s, 1H), 7.84 (m, 1H), 7.12 (s, 1H), 7.07 (m, 1H), 4.47 (s, 2H), 4.00 (s, 3H).

reactant | 4-nitro-3-methoxybenzyl alcohol | 54.6 mmol, 10 g | [N+](=O)([O-])C1=C(C=C(CO)C=C1)OC | C8H9NO4
reactant | carbon tetrabromide | 109 mmol, 36 g, 2 eq | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 60 mmol, 15.9 g, 1.1 eq. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 3-Methoxy-4-nitro-benzyl bromide | 11 g, 82% | COC=1C=C(CBr)C=CC1[N+](=O)[O-] | C8H8BrNO3
